US07375134B2
A mixture of (L)-leucinol (1.13 g, 9.67 mmol) and 4-fluorobenzaldehyde (1.20 g, 9.67 mmol) was dissolved in benzene (30 mL) and heated at reflux for 1 hour, using a Dean-Stark apparatus to remove water. (S)-2-[(4-Fluorobenzylidene)-amino]-4-methylpentan-1-ol was isolated by concentration in vacuo, and was used immediately without further purification.

reactant | (L)-leucinol | 9.67 mmol, 1.13 g | N[C@@H](CC(C)C)CO | C6H15NO
reactant | 4-fluorobenzaldehyde | 9.67 mmol, 1.20 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | (S)-2-[(4-Fluorobenzylidene)-amino]-4-methylpentan-1-ol | FC1=CC=C(C=N[C@H](CO)CC(C)C)C=C1 | C13H18FNO
